US06063790
Freshly distilled chlorosulfonic acid (b.p. 150° C.) 13.2 g (~0.1 mole) is placed in a 50 mL round-bottomed flask. The liquid is cooled to 15° C. in an ice-water bath, and 27 mL of 4-chloroanisole (95 w/w %) is carefully added to chlorosulfonic acid. The mixture is stirred between additions and the temperature of the mixture is kept below 50° C. When the addition is complete, the mixture is refluxed on a steam bath for 2 hours. A homogeneous, viscous liquid is formed. The reaction mixture is then carefully poured into a 250 mL beaker of ice water. A white, solid mass of 5-chloro-2-methoxybenzenesulfonyl chloride is precipitated, filtered and dried (m.p. 88-89° C.). The 5-chloro-2-methoxybenzenesulfonyl chloride (15.7 g, ~0.07 mole) is added to 7.0 g (~0.07 mole) of N-methyl aniline by the procedure for making sulfonanilides as described previously. A light brown oil, 5-chloro-2-methoxy-N-methylbenzenesulfonanilide, (16 g, 80% yield) is obtained. 1H NMR (deuterioacetone): δ6.3-7.9 (m, 8 ArH), 3.8 (s, 3H, OCH3), 3.2 (s, 3H, N--CH3); ms:m/z 311 (M+).

reactant | chlorosulfonic acid | ~0.1 mole, 13.2 g | ClS(=O)(=O)O | ClHO3S
reactant | 4-chloroanisole | 27 mL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | 5-chloro-2-methoxybenzenesulfonyl chloride | ~0.07 mole, 15.7 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
reactant | N-methyl aniline | ~0.07 mole, 7.0 g | CNC1=CC=CC=C1 | C7H9N
product | 5-chloro-2-methoxy-N-methylbenzenesulfonanilide | 16 g, 80% yield | ClC=1C=CC(=C(C1)S(=O)(=O)N(C1=CC=CC=C1)C)OC | C14H14ClNO3S
